US06716843B2
N-[(4S)-4-Amino-5-oxo-5-((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-N-methyl-cyclohexanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclohexanesulphonyl chloride and (S)-2-cyano-pyrrolidine hydrochloride, the expected product is obtained according to the procedure described in Example 68.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | (S)-2-cyano-pyrrolidine hydrochloride | Cl.C(#N)[C@H]1NCCC1
product | N-[(4S)-4-Amino-5-oxo-5-((2S)-2-cyano-1-pyrrolidinyl)-pentyl]-N-methyl-cyclohexanesulphonamide Hydrochloride | Cl.N[C@@H](CCCN(S(=O)(=O)C1CCCCC1)C)C(N1[C@@H](CCC1)C#N)=O | InChI=1S/C17H30N4O3S.ClH/c1-20(25(23,24)15-8-3-2-4-9-15)11-6-10-16(19)17(22)21-12-5-7-14(21)13-18;/h14-16H,2-12,19H2,1H3;1H/t14-,16-;/m0./s1
